US04943574
A mixture of 3.2 parts of ethyl 4-[[6-(1H-imidazol-1-ylmethyl)-1H-benzotriazol-1-yl]oxy]butanoate, 25 parts of a sodium hydroxide solution 1N and 20 parts of ethanol was stirred for 1.5 hours at room temperature. 25 Parts of hydrochloric acid solution 1N were added and the whole was concentrated to a volume of about 20 parts. The precipitated product, which was formed during concentration, was filtered off, washed with water, 2-propanol and 1,1'-oxybisethane and dried, yielding 2.1 parts (71%) of 4-[[6-(1H-imidazol-1-ylmethyl)-1H-benzotriazol-1-yl]oxy]butanoic acid; mp. 170.5° C. (compound 236).

reactant | ethyl 4-[[6-(1H-imidazol-1-ylmethyl)-1H-benzotriazol-1-yl]oxy]butanoate | N1(C=NC=C1)CC=1C=CC2=C(N(N=N2)OCCCC(=O)OCC)C1 | C16H19N5O3
reactant | sodium hydroxide | 1N | [OH-].[Na+]
reactant | hydrochloric acid | 1N | Cl | ClH
solvent | ethanol | C(C)O | C2H6O
product | 4-[[6-(1H-imidazol-1-ylmethyl)-1H-benzotriazol-1-yl]oxy]butanoic acid | 71% | N1(C=NC=C1)CC=1C=CC2=C(N(N=N2)OCCCC(=O)O)C1 | C14H15N5O3
